US06255285B1
To a solution of 1.78 g (15.8 mmol) of potassium t-butoxide in 30 ml of THF, a solution of 3.28 g (15.8 mmol) of N-[bis(methylthio)methylene]glycine ethyl ester (Angew. Chem. Internat. Edit., 14, 426 (1975)) and 2.39 g (10.5 mmol) of 3-t-butylbenzyl bromide (Eur. J. Med. Chem., 23, 477 (1988)) in 10 ml of THF was added at −78° C. and the mixture was stirred at room temperature for 1 hour. Under cooling with ice, 10 ml of water was added, then 5 ml of 2 N aqueous sodium hydroxide was added and the mixture was stirred at room temperature for another 1 hour. Under cooling with ice, 2 N hydrochloric acid was added to the reaction mixture to render it acidic; the reaction mixture was extracted with chloroform and washed first with water, then with saturated brine. The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate) to give N-[bis(methylthio)methylene]-3-t-butylphenylalanine in the amount of 577 mg (16%).

reactant | potassium t-butoxide | 15.8 mmol, 1.78 g | CC(C)([O-])C.[K+]
reactant | N-[bis(methylthio)methylene]glycine ethyl ester | 15.8 mmol, 3.28 g | C(C)OC(CN=C(SC)SC)=O | C7H13NO2S2
reactant | 3-t-butylbenzyl bromide | 10.5 mmol, 2.39 g | C(C)(C)(C)C=1C=C(CBr)C=CC1 | C11H15Br
reactant | sodium hydroxide | 2 N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | N-[bis(methylthio)methylene]-3-t-butylphenylalanine | CSC(=N[C@@H](CC1=CC(=CC=C1)C(C)(C)C)C(=O)O)SC | C16H23NO2S2
